US04560701
4-(4,10-Dihydro-4-oxothieno[2,3-c][1]benzoxepin-6-yl)butyl trifluoroacetate
To a suspension of 4.40 g of 2-[4-(4-hydroxybutyl)phenoxymethyl]-3-thiophenecarboxylic acid and 80 ml of sieve dried dichloromethane, was added, over a few seconds, 6.66 g of trifluoroacetate anhydride with stirring. The solution was refluxed for 1.5 hours, additional trifluoroacetic anhydride (2.2 g) was added, and the solution refluxed overnight, with the exclusion of moisture. To the cooled solution, was added 15 ml of water, and the mixture was stirred at ambient temperature for 15 minutes. The mixture was diluted with dichloromethane and washed with water and 5% sodium bicarbonate solution. The dried (over anhydrous sodium sulfate) organic phase was filtered and concentrated. The residue was dissolved in isopropanol (15 ml) with warming. After standing for 3 hours the precipitate was collected, washed with isopropanol and dried in vacuo at ambient temperature to give 4.08 g (73.7%) of product, m.p. 65.5°-67.5° C.

reactant | 2-[4-(4-hydroxybutyl)phenoxymethyl]-3-thiophenecarboxylic acid | 4.40 g | OCCCCC1=CC=C(OCC=2SC=CC2C(=O)O)C=C1 | C16H18O4S
reactant | trifluoroacetic anhydride | 2.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 15 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(4,10-Dihydro-4-oxothieno[2,3-c][1]benzoxepin-6-yl)butyl trifluoroacetate | 4.08 g, 73.7% | FC(C(=O)OCCCCC=1C=CC2=C(C(C3=C(CO2)SC=C3)=O)C1)(F)F | C18H15F3O4S
